US04370479
Methyl 1-[[(4,6-dimethoxypyrimidin-2-yl amino)(methylthio)methylene]aminosulfonyl]-2-naphthalenecarboxylate
To a suspension of methyl 1-[[(4,6-dimethoxypyrimidin-2-yl)aminothiocarbonyl]aminosulfonyl]-2-naphthalenecarboxylate in 200 ml of anhydrous tetrahydrofuran can be added 16.7 ml of 3 M NaOCH3 /MeOH solution. The resulting reaction mixture can be heated to reflux, 3.1 ml of methyl iodide in 10 ml of anhydrous tetrahydrofuran can be added; and the reaction mixture can be refluxed for 3 hours. The reaction mixture can be cooled to cause the formation of a precipitate which can be filtered off and washed with tetrahydrofuran to afford the desired product.

reactant | methyl 1-[[(4,6-dimethoxypyrimidin-2-yl)aminothiocarbonyl]aminosulfonyl]-2-naphthalenecarboxylate | COC1=NC(=NC(=C1)OC)NC(=S)NS(=O)(=O)C1=C(C=CC2=CC=CC=C12)C(=O)OC | C19H18N4O6S2
reactant | NaOCH3 MeOH | 3 M, 16.7 ml | O([Na])C.CO
reactant | methyl iodide | 3.1 ml | CI | CH3I
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl 1-[[(4,6-dimethoxypyrimidin-2-yl amino)(methylthio)methylene]aminosulfonyl]-2-naphthalenecarboxylate | COC1=NC(=NC(=C1)OC)NC(SC)=NS(=O)(=O)C1=C(C=CC2=CC=CC=C12)C(=O)OC | C20H20N4O6S2
